US07884101B2
Preparation of N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenyl]-4-trifluoromethyl-benzamide (Compound 282)
A solution of HATU (98.0 mg, 0.260 mmol), triethylamine (55.7 μl, 0.400 mmol) and 4-trifluoromethyl-benzoic acid (49.0 mg, 0.260 mmol) in THF (1.0 mL) was stirred at room temperature. After 15 min, 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenylamine (60.0 mg, 0.200 mmol) was added, and the mixture was stirred at 100° C. for 10 minutes in microwave. The mixture was purified by HPLC to give title compound as a white solid (TFA salt, 27 mg, 28%). 1H NMR (DMSO-d6, 400 MHz) δ 2.96-3.10 (m, 2H), 3.16-3.19 (m, 2H), 3.52-3.60 (m, 4H), 3.70 (s, 3H), 3.84-3.87 (m, 2H), 4.39 (t, J=5.05 Hz, 2H), 6.31 (d, J=1.77 Hz, 1H), 7.28 (d, J=9.09 Hz, 1H), 7.51 (d, J=1.77 Hz, 1H), 7.75 (d, J=2.78 Hz, 1H), 7.94 (d, J=8.34 Hz, 2H), 8.16 (d, J=8.84 Hz, 2H), 8.89 (s, 1H), 10.5 (s, 1H). Exact mass calculated for C24H25F3N4O3 474.2. found 475.4 (M+).

reactant | HATU | 0.260 mmol, 98.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.400 mmol, 55.7 μl | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethyl-benzoic acid | 0.260 mmol, 49.0 mg | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenylamine | 0.200 mmol, 60.0 mg | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCOCC1)N | C16H22N4O2
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenyl]-4-trifluoromethyl-benzamide | 27 mg, 28% | CN1N=CC=C1C=1C=C(C=CC1OCCN1CCOCC1)NC(C1=CC=C(C=C1)C(F)(F)F)=O | C24H25F3N4O3
